US08669234B2
(1-{2-[5-(9,9-Difluoro-7-{2-[2-(2-methoxycarbonylamino-3-methyl-butyryl)-2-aza-bicyclo[2.2.1]hept-3-yl]-3H-benzoimidazol-5-yl}-9H-fluoren-2-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester (10 mg) is dissolve in MeCN (1 mL) and water (1 mL). 1 drop of TFA was added. The mixture was treated with long wavelength UV light at room temperature for 2 hours. The reaction crude was concentrated down and purified by preparative reverse phase HPLC (GEMINI, 5 to 100% ACN/H2O+0.1% TFA). Product was lyophilized to give (1-{2-[5-(7-{2-[2-(2-Methoxycarbonylamino-3-methyl-butyryl)-2-aza-bicyclo[2.2.1]hept-3-yl]-3H-benzoimidazol-5-yl}-9-oxo-9H-fluoren-2-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester (Example DL) (3.7 mg).

reactant | (1-{2-[5-(9,9-Difluoro-7-{2-[2-(2-methoxycarbonylamino-3-methyl-butyryl)-2-aza-bicyclo[2.2.1]hept-3-yl]-3H-benzoimidazol-5-yl}-9H-fluoren-2-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 10 mg | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=2C(C3=CC(=CC=C3C2C=C1)C1=CC2=C(N=C(N2)C2N(C3CCC2C3)C(C(C(C)C)NC(=O)OC)=O)C=C1)(F)F)=O | C47H52F2N8O6
reactant | water | 1 mL | O | H2O
solvent | MeCN | 1 mL | CC#N | C2H3N
catalyst | TFA | 1 drop | C(=O)(C(F)(F)F)O | C2HF3O2
product | (1-{2-[5-(7-{2-[2-(2-Methoxycarbonylamino-3-methyl-butyryl)-2-aza-bicyclo[2.2.1]hept-3-yl]-3H-benzoimidazol-5-yl}-9-oxo-9H-fluoren-2-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 3.7 mg | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=2C(C3=CC(=CC=C3C2C=C1)C1=CC2=C(N=C(N2)C2N(C3CCC2C3)C(C(C(C)C)NC(=O)OC)=O)C=C1)=O)=O | C47H52N8O7
